US04945090
5-(4-aminophenoxy)-4-methoxymethyl-beta-carboline-3-carboxylic acid ethyl ester
15 g of 5-(4-nitrophenoxy)-4-methoxymethyl-beta-carboline-3-carboxylic acid ethyl ester is hydrogenated in 450 ml of methanol: tetrahydrofuran=1:1 with 7.5 g of palladium on carbon (10%) at room temperature under hydrogen normal pressure. After filtering and concentrating, it is recrystallized from ethanol and 10.8 g (77% of theory) of 5-(4-aminophenoxy)-4-methoxymethyl-beta-carboline-3-carboxylic acid ethyl ester of a melting point of 222°-224° C. is obtained.

reactant | 5-(4-nitrophenoxy)-4-methoxymethyl-beta-carboline-3-carboxylic acid ethyl ester | 15 g | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1COC)OC1=CC=C(C=C1)[N+](=O)[O-] | C22H19N3O6
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | methanol | 450 ml | CO | CH4O
catalyst | palladium on carbon | 7.5 g | [Pd] | Pd
product | 5-(4-aminophenoxy)-4-methoxymethyl-beta-carboline-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1COC)OC1=CC=C(C=C1)N | C22H21N3O4
